US08106064B2
Methanesulfonic acid 3-fluoro-pyridin-4-ylmethyl ester:
At 0° C. TEA (44 μl, 0.314 mmol, 2 eq.) was added to (3-fluoro-pyridin-4-yl)-methanol (20 mg, 0.157 mmol, 1 eq.) in 1 mL DCM, followed by MsCl (15 μl, 0.188 mmol, 1.2 eq.) The reaction was stirred at 0° C. for 30 minutes. HPLC and LC-MS showed reaction complete. The reaction crude was concentrated down. Ethyl acetate was added and washed with saturated NAHCO3 aqueous solution. The Ethyl acetate layer was concentrated after dried over Na2SO4 to give color oil which was used directly in next step. LC-MS shows 206.1 (M+1).

reactant | (3-fluoro-pyridin-4-yl)-methanol | 0.157 mmol, 20 mg, 1 eq. | FC=1C=NC=CC1CO | C6H6FNO
reactant | MsCl | 0.188 mmol, 15 μl, 1.2 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-fluoro-pyridin-4-ylmethyl ester | FC=1C=NC=CC1COS(=O)(=O)C | C7H8FNO3S
